US07875640B2
1-(5-tert-butyl-2-iminothiazol-3(2H)-yl)-2-methylpropan-2-ol
A mixture of 3,3-dimethylbutanal (7.7 mL, 62 mmol), 1-amino-2-methylpropan-2-ol (5.0 g, 56 mmol), 4 Å molecular sieves (5 g, 8-12 mesh beads), potassium thiocyanate (7.3 g, 75 mmol) and iodine (14 g, 56 mmol) in acetonitrile (100 mL) were processed as described in Example 18A to provide the title compound (12 g, 53 mmol, 94% yield). MS (DCI/NH3) m/z 229 (M+H)+.

reactant | 3,3-dimethylbutanal | 62 mmol, 7.7 mL | CC(CC=O)(C)C | C6H12O
reactant | 1-amino-2-methylpropan-2-ol | 56 mmol, 5.0 g | NCC(C)(O)C | C4H11NO
reactant | potassium thiocyanate | 75 mmol, 7.3 g | [S-]C#N.[K+]
reactant | iodine | 56 mmol, 14 g | II | I2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-(5-tert-butyl-2-iminothiazol-3(2H)-yl)-2-methylpropan-2-ol | 53 mmol, 12 g, 94% yield | C(C)(C)(C)C1=CN(C(S1)=N)CC(C)(O)C | C11H20N2OS
